US05162326
6-Chloro-1-(2'-cyanobiphenyl-4-yl)methyl-3-propylpyrimidine-2,4(1H,3H)-dion
A mixture of 6-chloro-3-propylpyrimidine-2,4(1H,3H)-dione (3 g), 4-chloromethyl-2'-cyanobiphenyl (4.76 g) and potassium carbonate (2.64 g) in DMF (50 ml) was stirred at room temperature for 3 hours and then at 60° C. for 2 hours. The reaction mixture was concentrated to dryness in vacuo and then the residue was dissolved in methylene chloride. The insoluble material was removed from the reaction mixture by filtration and the filtrate was concentrated to dryness. The resulting residue was purified by column chromatography on silica gel to give colorless crystals (5.9 g, 98%).

reactant | 6-chloro-3-propylpyrimidine-2,4(1H,3H)-dione | 3 g | ClC1=CC(N(C(N1)=O)CCC)=O | C7H9ClN2O2
reactant | 4-chloromethyl-2'-cyanobiphenyl | 4.76 g | ClCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10ClN
reactant | potassium carbonate | 2.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-1-(2'-cyanobiphenyl-4-yl)methyl-3-propylpyrimidine-2,4(1H,3H)-dion | 5.9 g, 98% | ClC1=CC(N(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O)CCC)=O | C21H18ClN3O2
